* Schematics Subcircuit *

.SUBCKT aop 1 2 3 

E_DIFF1         $N_0001 0 VALUE {V(2,1)}
R_RS         0 3  10k  
E_GLIMIT2         3 0 VALUE {LIMIT(V($N_0001)*100k,0,4.2V)}

.ENDS    aop

